US03985760
a. 3-methyl-6-phenylisoxazolo[5,4-b]pyridin-4-ol
19.2 g. of benzoylacetic acid ethyl ester (0.1 mol.) are added dropwise to a stirred mixture of 9.8 g. of 5-amino-3-methylisoxazole (0.1 mol.) and 50 g. of polyphosphorous acid heated to 120°-125°. After the reaction has occurred, which can be recognized by changing of the color to brown, the reaction mixture is heated for an additional half hour at 125°. After the mixture has cooled to room temperature, 250 ml. of water are added in portions and stirring is continued until the compound becomes crystalline. The collected 3-methyl-6-phenylisoxazolo[5,4-b]pyridin-4-ol is washed with water, dried and recrystallized from ethanol yielding 19.9 g. (88%), m.p. 281°-282°.

reactant | benzoylacetic acid ethyl ester | 0.1 mol | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | 5-amino-3-methylisoxazole | 0.1 mol | NC1=CC(=NO1)C | C4H6N2O
solvent | water | O | H2O
product | 3-methyl-6-phenylisoxazolo[5,4-b]pyridin-4-ol | CC1=NOC=2N=C(C=C(C21)O)C2=CC=CC=C2 | C13H10N2O2
